US06486156B1
tert-Butyl (2S)-2-{5-[(E)-3-(Imidazol-1-yl)prop-1-en-1-yl]-2-(4-fluorophenethyl)benzamido}-4-methylsulfanylbutyrate
A solution of pentafluorophenyl 5-[(E)-3-(imidazol-1-yl)prop-1-en-1-yl]-2-(4-fluorophenethyl)benzoate (0.36 g, 0.7 mmol), L-methionine-tert-butyl ester(0.173 g, 0.84 mmol) and 1-hydroxy-7-azabenzotriazole (0.1 g, 0.73 mmol) in DMF (2 ml) was stirred at ambient temperature overnight. After evaporation of the solvent, the residue was taken up in ethyl acetate, washed with 5% sodium hydrogen carbonate solution and saturated brine and evaporated to dryness. The residue was then purified by flash chromatography eluting with dichloromethane/ethanol (97/3) to give the title compound. Yield: 50%

reactant | pentafluorophenyl 5-[(E)-3-(imidazol-1-yl)prop-1-en-1-yl]-2-(4-fluorophenethyl)benzoate | 0.7 mmol, 0.36 g | N1(C=NC=C1)C/C=C/C=1C=CC(=C(C(=O)OC2=C(C(=C(C(=C2F)F)F)F)F)C1)CCC1=CC=C(C=C1)F | C27H18F6N2O2
reactant | L-methionine-tert-butyl ester | 0.84 mmol, 0.173 g | C(C)(C)(C)OC([C@@H](N)CCSC)=O | C9H19NO2S
reactant | 1-hydroxy-7-azabenzotriazole | 0.73 mmol, 0.1 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | tert-Butyl (2S)-2-{5-[(E)-3-(Imidazol-1-yl)prop-1-en-1-yl]-2-(4-fluorophenethyl)benzamido}-4-methylsulfanylbutyrate | Yield: 50% | N1(C=NC=C1)C/C=C/C=1C=CC(=C(C(=O)N[C@H](C(=O)OC(C)(C)C)CCSC)C1)CCC1=CC=C(C=C1)F | C30H36FN3O3S
